US07049318B2
2-Bromo-6-formyl-benzoic acid methyl ester:
A suspension of 2-bromo-6-bromomethyl-benzoic acid methyl ester (21.8 mmol), N-methylmorpholine N-oxide (43.6 mmol) and 35 g powdered 4 Å molecular sieves in 350 mL acetonitrile was stirred for 1.5 h at room temperature. The reaction was filtered through a bed of silica, and the filtrate was purified on silica.

reactant | 2-bromo-6-bromomethyl-benzoic acid methyl ester | 21.8 mmol | COC(C1=C(C=CC=C1CBr)Br)=O | C9H8Br2O2
reactant | N-methylmorpholine N-oxide | 43.6 mmol | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
product | 2-Bromo-6-formyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1C=O)Br)=O | C9H7BrO3
